US04131725
Preparation of Styrene-Butadiene-Styrene Block Copolymer
Following the completion of Step III, 2,4-di-t-butyl-4-methylphenol (one part by weight per hundred parts of total monomers) was added as a 10 weight percent solution in 50/50 (by volume) toluene/isopropyl alcohol, and the polymer recovered by adding the polymerization mixture to isopropyl alcohol. The coagulated polymer was collected by filtration and dried under reduced pressure. Physical properties of the butadiene/styrene teleblock polymer prepared by this procedure are shown in Table I.

reactant | 2,4-di-t-butyl-4-methylphenol | C(C)(C)(C)C1=C(C=CC(C1)(C)C(C)(C)C)O | C15H26O
solvent | toluene isopropyl alcohol | C1(=CC=CC=C1)C.C(C)(C)O
product | Styrene-Butadiene-Styrene | C=CC1=CC=CC=C1.C=CC=C.C=CC1=CC=CC=C1 | InChI=1S/2C8H8.C4H6/c2*1-2-8-6-4-3-5-7-8;1-3-4-2/h2*2-7H,1H2;3-4H,1-2H2
